US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(3-phenylpropyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
To a solution of allylbenzene (106 mg, 0.89 mmol) in 0.5 mL of THF was added 9-BBN (0.89 mmol, 1 eguiv) in THF, at 0°. Let stir for 1 h, warming to 5°. To the mixture was added (+)-(4aR)-(10bR)-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (250 mg, 0.812 mmol), triphenyl phosphine (42 mg, 0.16 equiv.), tetrakis(triphenylphosphine) palladium(0) (19 mg, 0.02 equiv.), 1 mL of 3N sodium hydroxide solution and an additional 1 mL of THF. The resulting mixture was heated at 80° for 18 h, cooled, and ethanolamine was added, followed by ethyl acetate. The resulting organic phase was washed with brine, dried over sodium sulfate, concentrated, and purified by silica gel chromatography (50-100% ethyl acetate/hexanes eluent gradient) to give 160 mg (59%) of the title compound as an oil. FDMS m/e=347.

reactant | allylbenzene | 0.89 mmol, 106 mg | C(C=C)C1=CC=CC=C1 | C9H10
reactant | 9-BBN | 0.89 mmol | B1C2CCCC1CCC2 | C8H15B
reactant | (+)-(4aR)-(10bR)-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.812 mmol, 250 mg | BrC1=CC2=C([C@]3(CCC(N[C@@H]3CC2)=O)C)C=C1 | C14H16BrNO
reactant | triphenyl phosphine | 42 mg, 0.16 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydroxide | 3N, 1 mL | [OH-].[Na+]
reactant | ethanolamine | C(O)CN | C2H7NO
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 19 mg, 0.02 equiv. | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+)-(4aR)-(10bR)-4-methyl-8-(3-phenylpropyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 160 mg, 59% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)CCCC3=CC=CC=C3)C)=O | C24H29NO
